US05910606
A solution of 96.5 g of 2-(p-fluorophenyl)-3-hydroxy-3-methylbutyric acid in 200 ml of CH2Cl2 was cooled in an ice bath and then treated dropwise with 240 g of conc. sulphuric acid within 30 minutes, with the temperature being held at ≤20°. The CH2Cl2 was then removed to 20° on a rotary evaporator. The yellowish solution was stirred at 20° for a further 45 minutes and then poured into 1 kg of ice/water mixture while stirring well. The white precipitate was filtered off under suction, washed 3 times with 100 ml of water each time and twice with 100 ml of hexane each time and finally dried in a drying oven at 40° for 16 hours and at 100° for 2 hours. There were obtained 87.5 g of 2-(p-fluorophenyl)-3-methylcrotonic acid as a white powder of m.p. 124-126°; GC purity 99.9%; yield 95.6% based on p-fluorophenylacetic acid.

reactant | 2-(p-fluorophenyl)-3-hydroxy-3-methylbutyric acid | 96.5 g | FC1=CC=C(C=C1)C(C(=O)O)C(C)(C)O | C11H13FO3
reactant | sulphuric acid | 240 g | S(O)(O)(=O)=O | H2O4S
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(p-fluorophenyl)-3-methylcrotonic acid | 87.5 g, yield 95.6% | FC1=CC=C(C=C1)C(C(=O)O)=C(C)C | C11H11FO2
